US07338959B2
(1-Methyl-5-{methyl-[2-(4-methyl-3-sulfamoyl-phenylamino)-pyrimidin-4-yl]-amino}-1H-benzoimidazol-2-yl)-phenyl-carbamic acid tert-butyl ester hydrochloride
The title compound was prepared following the procedure of example 60 using {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-phenyl-carbamic acid tert-butyl ester (100 mg, 0.22 mmol) and 5-amino-2-methyl-benzenesulfonamide (41 mg, 0.22 mmol) to give the desired product as a white solid. 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 9.48 (s, 1H), 8.54 (s, 1H), 7.79 (d, J=6.3 Hz, 1H), 7.66-7.71 (M, 2H), 7.56 (d, J=1.5 Hz, 1H), 7.38 (m, 4H), 7.23-7.29 (m, 4H), 7.12 (m, 1H), 5.68 (d, J=6.0 Hz, 1H), 3.78 (s, 3H), 3.48 (s, 3H), 2.49 (s, 3H), 1.42 (s, 9H). MS (ESI) m/z=615 [M+H]+.

reactant | {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-phenyl-carbamic acid tert-butyl ester | 0.22 mmol, 100 mg | C(C)(C)(C)OC(N(C1=CC=CC=C1)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl)=O | C24H25ClN6O2
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.22 mmol, 41 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | (1-Methyl-5-{methyl-[2-(4-methyl-3-sulfamoyl-phenylamino)-pyrimidin-4-yl]-amino}-1H-benzoimidazol-2-yl)-phenyl-carbamic acid tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(N(C1=CC=CC=C1)C1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC(=C(C=C2)C)S(N)(=O)=O)C)=O | InChI=1S/C31H34N8O4S.ClH/c1-20-12-13-21(18-26(20)44(32,41)42)34-28-33-17-16-27(36-28)37(5)23-14-15-25-24(19-23)35-29(38(25)6)39(22-10-8-7-9-11-22)30(40)43-31(2,3)4;/h7-19H,1-6H3,(H2,32,41,42)(H,33,34,36);1H
